US08067621B2
tert-Butyl-(1-{2-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-ethyl}-but-3-enyloxy)-dimethyl-silane
A solution of 1-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-hex-5-en-3-ol (1.30 g, 2.93 mmol) in DMF (29 mL) 0° C. was treated with imidazole (0.41 g, 6.0 mmol), TBSCl (0.66 g, 4.4 mmol) and warmed to ambient temperature. After 36 h, the reaction mixture was quenched with saturated aqueous NH4Cl and extracted with EtOAc (2×). The combined organic extracts were washed H2O (3×), saturated aqueous NaHCO3, brine, dried over MgSO4 and concentrated in vacuo. Flash chromatography (1→10% EtOAc/Hex) afforded the title compound (1.45 g, 89%): 1H NMR (CDCl3 400 MHz) δ 7.71 (dd, J=8.1, 1.5 Hz, 2H), 7.52 (dd, J=8.1, 1.5 Hz, 2H), 7.03 (m, 1H), 6.42 (m, 1H), 5.72 (m, 1H), 5.01-4.89 (m, 3H), 4.33 (dd, J=11.0, 2.2 Hz, 1H), 4.27 (s, 1H), 3.62 (m, 1H), 2.74 (m, 1H), 2.12-2.10 (m, 2H), 1.55-1.24 (m, 4H), 0.78 (s, 4.5H), 0.76 (s, 4.5H), −0.01 (s, 3H), −0.08 (s, 3H).

reactant | 1-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-hex-5-en-3-ol | 2.93 mmol, 1.30 g | ClC1=CC=C(C=C1)S(=O)(=O)C1C(COC2=C(C=CC(=C12)F)F)CCC(CC=C)O | C21H21ClF2O4S
reactant | imidazole | 6.0 mmol, 0.41 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 4.4 mmol, 0.66 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 29 mL | CN(C)C=O | C3H7NO
product | tert-Butyl-(1-{2-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-ethyl}-but-3-enyloxy)-dimethyl-silane | 1.45 g, 89% | C(C)(C)(C)[Si](C)(C)OC(CC=C)CCC1COC2=C(C=CC(=C2C1S(=O)(=O)C1=CC=C(C=C1)Cl)F)F | C27H35ClF2O4SSi
